US05569653
(A) Preparation of 1-[3-acetylamino-4-(3-chloropropoxy)phenyl]ethanone
A stirred mixture of 1-[3-acetylamino-4-hydroxyphenyl]ethanone (7.7 g, 40 mmol), K2CO3 (5.7 g), 3-chloro-1-bromopropane (8.9 g, 56 mmol) and acetone (100 ml) was refluxed for 16 hours. The reaction was allowed to cool to ambient temperature and filtered. Concentration of the filtrate yielded 8.5 g of a white solid. The solid was recrystallized from toluene and then from ethanol to afford 6.5 g of an off-white solid. A 3.3 g sample of this material was flash chromatographed on silica gel with ethyl acetate as eluent. Concentration of the appropriate fractions afforded 2.8 g of a solid. The solid was recrystallized from toluene and then from ethanol-water to yield 2.2 g (51%) of a solid, m.p.=124°-126° C.

reactant | 1-[3-acetylamino-4-hydroxyphenyl]ethanone | 40 mmol, 7.7 g | C(C)(=O)NC=1C=C(C=CC1O)C(C)=O | C10H11NO3
reactant | K2CO3 | 5.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-bromopropane | 56 mmol, 8.9 g | ClCCCBr | C3H6BrCl
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-[3-acetylamino-4-(3-chloropropoxy)phenyl]ethanone | 8.5 g | C(C)(=O)NC=1C=C(C=CC1OCCCCl)C(C)=O | C13H16ClNO3
